US08022062B2
(R)-4-Aminomethyl-2-fluoro-N-(2,2,2-trifluoro-1-methyl-ethyl)-benzamide:
Combine a solution of (R)-4-cyano-2-fluoro-N-(2,2,2-trifluoro-1-methyl-ethyl)-benzamide (0.904 g, 3.475 mmol) in absolute ethanol (26 mL), water (9.7 mL) and glacial acetic acid (1.2 mL) with 10% Pd/C (Degussa type E101, 0.27 g, 0.13 mmol) under nitrogen. Purge the mixture with nitrogen and then with hydrogen. Stir the slurry at room temperature under hydrogen at 55 psi for 30 min. Purge the reaction mixture with nitrogen and then filter the slurry over Celite®. Wash the filter cake with ethanol (100 mL) and THF (100 mL). Concentrate the filtrate and purify by SCX chromatography eluting with dichloromethane/methanol (1:1) to remove impurities and then with dichloromethane/2M ammonia in methanol (1:1) to elute product. Concentrate to afford the title compound as a colorless oil (0.86 g, 94%).

reactant | (R)-4-cyano-2-fluoro-N-(2,2,2-trifluoro-1-methyl-ethyl)-benzamide | 3.475 mmol, 0.904 g | C(#N)C1=CC(=C(C(=O)N[C@@H](C(F)(F)F)C)C=C1)F | C11H8F4N2O
solvent | ethanol | 26 mL | C(C)O | C2H6O
solvent | water | 9.7 mL | O | H2O
solvent | acetic acid | 1.2 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.13 mmol, 0.27 g | [Pd] | Pd
product | (R)-4-Aminomethyl-2-fluoro-N-(2,2,2-trifluoro-1-methyl-ethyl)-benzamide | 0.86 g, 94% | NCC1=CC(=C(C(=O)N[C@@H](C(F)(F)F)C)C=C1)F | C11H12F4N2O
